US07569600B2
A suspension of 1,4-dioxa-spiro[4.5]decan-8-one (10.0 g, 64.0 mmol) in 64 mL of methanol was treated with a solution of ammonium carbonate (18.4 g, 192 mmol) in 64 mL of water. Potassium cyanide (6.14 g, 96.0 mmol) was added and the mixture was stirred at 65° C. for 18 h. It was cooled to room temperature and a precipitate was formed. The precipitate was collected by filtration to give a white solid and the filtrate was extracted with ethyl acetate. The portion of ethyl acetate was concentrated to afford also a white solid. Both solids were combined to afford 9,12-dioxa-1,3-diaza-dispiro[4.2.4.2]tetradecane-2,4-dione (9.80 g g, 68%)

reactant | 1,4-dioxa-spiro[4.5]decan-8-one | 64.0 mmol, 10.0 g | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | ammonium carbonate | 192 mmol, 18.4 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | Potassium cyanide | 96.0 mmol, 6.14 g | [C-]#N.[K+]
reactant | methanol | 64 mL | CO | CH4O
solvent | water | 64 mL | O | H2O
product | 9,12-dioxa-1,3-diaza-dispiro[4.2.4.2]tetradecane-2,4-dione | 9.80 g, 68% | N1C(NC(C12CCC1(OCCO1)CC2)=O)=O | C10H14N2O4
